US04902686
To a degassed solution of 5-bromo-3-methyl-2,4-dioxo-1,2,3,4-tetrahydro-quinazoline (1.0 g, 4.0 mmol) in 20 ml of DMF and 20 ml of triethylamine was added trimethylsilylacetylene (1.6 ml, 12 mmol), 50 mg of triphenylphosphine, 20 mg of palladium(II)acetate, and 1 mg of cuprous(I)iodide. The mixture was stirred under nitrogen, at 70° C. After 7 h additionally 0.4 ml of trimethylsilylacetylene was added and heating continued for 4 h. Then the mixture was evaporated in vacuo and the residue extracted with 100 ml of dichloromethane and 100 ml of water. The organic layer was washed twice with 100 ml of water, dried over anhydrous sodium sulfate, treated with charcoal, filtered through a pad of celite, and evaporated. The residue was triturated with ether/petroleum ether (1:1) and filtered off and dried giving 0.50 g (46%) of 1,2,3,4-tetrahydro-3-methyl-2,4-dioxo-5-trimethylsilylethynyl-quinazoline.

reactant | 5-bromo-3-methyl-2,4-dioxo-1,2,3,4-tetrahydro-quinazoline | 4.0 mmol, 1.0 g | BrC1=C2C(N(C(NC2=CC=C1)=O)C)=O | C9H7BrN2O2
reactant | trimethylsilylacetylene | 12 mmol, 1.6 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triphenylphosphine | 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilylacetylene | 0.4 ml | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium(II)acetate | 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1,2,3,4-tetrahydro-3-methyl-2,4-dioxo-5-trimethylsilylethynyl-quinazoline | 0.50 g, 46% | CN1C(NC2=CC=CC(=C2C1=O)C#C[Si](C)(C)C)=O | C14H16N2O2Si
